US07504403B2
4-{2-[4-(4-Oxo-8-phenyl-3,4-dihydro-2H,6H-pyrimido[1,2-a]pyrimidin-1-yl)-pyrimidin-2-ylamino]-propyl}-benzaldehyde:
The mixture of 1-{2-[2-(4-hydroxymethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-yl}-8-phenyl-1,2,3,6-tetrahydro -pyrimido[1,2-a]pyrimidin-4-one (0.38 g, 0.81 mmol) and manganese dioxide (3.5 g, 40.5 mmol) in dichloromethane was stirred at room temperature for 3 h. The mixture was filtered off and concentrated to afford a white solid. M+1=467.

reactant | 1-{2-[2-(4-hydroxymethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-yl}-8-phenyl-1,2,3,6-tetrahydro -pyrimido[1,2-a]pyrimidin-4-one | 0.81 mmol, 0.38 g | OCC1=CC=C(C=C1)CC(C)NC1=NC=CC(=N1)N1C=2N(C(CC1)=O)CC=C(N2)C2=CC=CC=C2 | C27H28N6O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | manganese dioxide | 40.5 mmol, 3.5 g | [O-2].[O-2].[Mn+4]
product | 4-{2-[4-(4-Oxo-8-phenyl-3,4-dihydro-2H,6H-pyrimido[1,2-a]pyrimidin-1-yl)-pyrimidin-2-ylamino]-propyl}-benzaldehyde | O=C1CCN(C=2N1CC=C(N2)C2=CC=CC=C2)C2=NC(=NC=C2)NC(CC2=CC=C(C=O)C=C2)C | C27H26N6O2
